* C:\Users\holge\Desktop\github\Alexa_ringbell\ltspice\V2_simple_zener.asc
V1 ring 0 SINE(0 10 50 0.5 0 0 5)
R1 rect 0 330k
D1 ring rect 1N4148
C1 rect 0 4.7µ
R2 N001 rect 100k
Q1 reed N002 0 0 BC547B
R3 3V3 reed 10k
V2 3V3 0 3.3
D2 N002 N001 BZX84B6V2L
.model D D
.lib C:\Users\holge\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\holge\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 5
.backanno
.end
